US07776857B2
Synthesis of N-(6-(7-methoxy-1,5-naphthyridin-4-yloxy)pyridin-3-yl)-4-phenylphthalazin-1-amine
A pyrex reaction tube was charged with 8-chloro-3-methoxy-1,5-naphthyridine (50 mg, 0.26 mmol), 5-(4-phenylphthalazin-1-ylamino)pyridin-2-ol (80 mg, 0.26 mmol), cesium carbonate (249 mg, 0.76 mmol) and DMSO (2 mL). The tube was sealed and the reaction mixture was heated to 130° C. After 3.5 h, an aliquot was analyzed by LCMS, and the desired product was determined to be the major peak. The reaction mixture was diluted with DMSO and purified by Gilson HPLC {5-65% (0.1% TFA in CH3CN) in H2O over 20 min}. The product-containing fractions were combined, basified by addition of aq. NaHCO3 and extracted with DCM. The organic portion was dried with Na2SO4, filtered, and concentrated to afford material that was further purified by silica gel chromatography, 90/10/1 CH2Cl2/MeOH/NH4OH. This provided N-(6-(7-methoxy-1,5-naphthyridin-4-yloxy)pyridin-3-yl)-4-phenylphthalazin-1-amine as pure material. MS [M+H]=473.0@1.48 minutes. Calc'd for C28H20N6O2: 472.5.

reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 0.26 mmol, 50 mg | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
reactant | 5-(4-phenylphthalazin-1-ylamino)pyridin-2-ol | 0.26 mmol, 80 mg | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC=1C=CC(=NC1)O | C19H14N4O
reactant | cesium carbonate | 0.76 mmol, 249 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | N-(6-(7-methoxy-1,5-naphthyridin-4-yloxy)pyridin-3-yl)-4-phenylphthalazin-1-amine | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=N1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C28H20N6O2
